US06794402B2
To a stirred, ice—Cold, suspension of NaIO4 (0.13 g, 0.62 mmol) in H2O (1.2 mL) was added 6-[trans-4-(2-phenylsulfanylethylamino)cyclohexyl]-3H-benzoxazol-2-one (0.25 g, 0.62 mmol). The viscous reaction mixture was diluted with H2O (1.5 mL), warmed to room temperature, and then further diluted with MeOH (15 mL). After 21 hours, the reaction mixture was concentrated under reduced pressure. Purification by flash chromatography (silica, 89:10:1 CH2Cl2:MeOH:NH4OH) gave the free base of 6-[trans-4-(2-benzenesulfinylethylamino)cyclohexyl]-3H-benzoxazol-2-one, which was converted to the HCl salt (0.13 g, 49%): mp 107-110° C.; IR (KBr): 2936, 2783, 1768, cm−1; 1H NMR (500 MHz, DMSO-d6): δ 9.03 (br s, 2H), 7.74-7.60 (m, 5H), 7.16 (s, 1H), 6.99-6.97 (m, 2H), 3.48-3.43 (m, 1H), 3.33-3.29 (m, 1H), 3.18-3.04 (m, 4H), 2.54-2.52 (m, 2H), 1.86-1.84 (m, 2H), 1.51-1.44 (m, 4H); API-MS (m/z): 385 [M+H]+; HPLC: method A, 7.01 minutes (98.1%); method B, 12.83 minutes (99.2%); Anal. Calcd for C21H24N2O3S.HCl.1.25H2O: C, 56.88; H, 6.25; N, 6.32. Found: C, 56.86; H, 6.18; N, 6.22.

reactant | 6-[trans-4-(2-phenylsulfanylethylamino)cyclohexyl]-3H-benzoxazol-2-one | 0.62 mmol, 0.25 g | C1(=CC=CC=C1)SCCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1 | C21H24N2O2S
reactant | H2O | 1.2 mL | O | H2O
reactant | H2O | 1.5 mL | O | H2O
solvent | MeOH | 15 mL | CO | CH4O
product | 6-[trans-4-(2-benzenesulfinylethylamino)cyclohexyl]-3H-benzoxazol-2-one | C1(=CC=CC=C1)S(=O)CCN[C@@H]1CC[C@H](CC1)C1=CC2=C(NC(O2)=O)C=C1 | C21H24N2O3S
